US06352982B1
In tetrahydrofuran (15 ml) were dissolved N-tert-butoxycarbonyl-5-bromo-1,2,3,4-tetrahydroisoquinoline (0.9 g) and N-methyl-N-methyloxy-2-amino-5-chlorobenzamide (0.68 g). The solution was cooled to −78° C., to which was added dropwise, while stirring, n-butyl lithium (1.6 mol, hexane solution) (9 ml) over 30 minutes. To the reaction mixture was added water (50 ml) to decompose, followed by extraction with ethyl acetate (80 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-(N-tert-butoxycarbonyl-1,2,3,4-tetrahydroisoquinolin-5-yl)carbonyl-4-chloro-aniline (0.26 g) as a yellow crystalline product. m.p.: 159-160° C.

reactant | N-tert-butoxycarbonyl-5-bromo-1,2,3,4-tetrahydroisoquinoline | 0.9 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)Br | C14H18BrNO2
reactant | N-methyl-N-methyloxy-2-amino-5-chlorobenzamide | 0.68 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | n-butyl lithium | 1.6 mol, 9 ml | C(CCC)[Li]
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(N-tert-butoxycarbonyl-1,2,3,4-tetrahydroisoquinolin-5-yl)carbonyl-4-chloro-aniline | 0.26 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC(=C2CC1)C(=O)C1=C(N)C=CC(=C1)Cl | C21H23ClN2O3
